US07253286B2
4-(4-Amino-3-chlorophenoxy)-6-cyano-7-((2R)-oxiran-2-yl)methoxyquinoline
The title compound (198 mg, 0.538 mmol, 16.8%) was obtained as light brown crystals from an 4-(4-amino-3-chlorophenoxy)-6-cyano-7-hydroxyquinoline crude product (1.00 g, 3.21 mmol) and (2R)-oxiran-2-ylmethyl 4-methyl-1-benzenesulfonate, by the same procedure as in Example 7.

reactant | 4-(4-amino-3-chlorophenoxy)-6-cyano-7-hydroxyquinoline | NC1=C(C=C(OC2=CC=NC3=CC(=C(C=C23)C#N)O)C=C1)Cl | C16H10ClN3O2
reactant | (2R)-oxiran-2-ylmethyl 4-methyl-1-benzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC1 | C10H12O4S
product | 4-(4-Amino-3-chlorophenoxy)-6-cyano-7-((2R)-oxiran-2-yl)methoxyquinoline | 0.538 mmol, 198 mg, 16.8% | NC1=C(C=C(OC2=CC=NC3=CC(=C(C=C23)C#N)OC[C@@H]2OC2)C=C1)Cl | C19H14ClN3O3
